US05977178
(2E)-5-tert-Butoxycarbonylamino-5-methylhex-2-enoic acid (182 mg, 0.75 mmol) was dissolved in N,N-dimethylformamide (2 ml) and dichloromethane (2 ml). 1-Hydroxy-7-azabenzotriazole (102 mg, 0.75 mmol) was added. The solution was cooled to 0° C. N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (144 mg, 0.75 mmol) was added. The solution was stirred for 15 min at 0° C. (2R)-N-((1R)-1-Benzyl-2-(3-cyclopropylthioureido)ethyl)-N-methyl-2-methylamino-3-(2-naphthyl)propionamide (178 mg, 0.37 mmol) was dissolved in dichloromethane and added to the reaction mixture. Ethyidiisopropylamine (0.13 ml, 0.75 mmol) was added. The solution was stirred for 16 h, while it was warming up to room temperature. It was diluted with ethyl acetate (200 ml) and washed with 10% aqueous sodium hydrogen sulfate solution (100 ml). The aqueous solution was extracted with ethyl acetate (3×50 ml). The combined organic layers were washed with saturated sodium hydrogen carbonate solution (150 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (45 g) to give 89 mg of (3E)-4-(N-((1R)-1-(N-((1R)-1-benzyl-2-(3-cyclopropylthioureido)ethyl)-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methylcarbamoyl)-1,1-dimethylbut-3-enylcarbamic acid tert-butylester.

reactant | (2E)-5-tert-Butoxycarbonylamino-5-methylhex-2-enoic acid | 0.75 mmol, 182 mg | C(C)(C)(C)OC(=O)NC(C/C=C/C(=O)O)(C)C | C12H21NO4
reactant | 1-Hydroxy-7-azabenzotriazole | 0.75 mmol, 102 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 0.75 mmol, 144 mg | Cl.CN(CCCN=C=NCC)C
reactant | (2R)-N-((1R)-1-Benzyl-2-(3-cyclopropylthioureido)ethyl)-N-methyl-2-methylamino-3-(2-naphthyl)propionamide | 0.37 mmol, 178 mg | C(C1=CC=CC=C1)[C@H](CNC(=S)NC1CC1)N(C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)C | C28H34N4OS
reactant | Ethyidiisopropylamine | 0.75 mmol, 0.13 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | (3E)-4-(N-((1R)-1-(N-((1R)-1-benzyl-2-(3-cyclopropylthioureido)ethyl)-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methylcarbamoyl)-1,1-dimethylbut-3-enylcarbamic acid tert-butylester | 89 mg | C(C)(C)(C)OC(NC(C\C=C\C(N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)[C@@H](CNC(=S)NC1CC1)CC1=CC=CC=C1)=O)=O)(C)C)=O | C40H53N5O4S
